US06472412B1
A solution of oxalyl chloride (0.05 mL) in dichloromethane (3 mL) is cooled to −60° C. and dimethylsulfoxide (1 mL) added. After stirring at this temperature for 0.25 hours, a solution of 2-(3,5-dichloropyrid-4-yl)-1-(3-cyclopentyloxy-6-fluoro-4-methoxyphenyl)ethanol (0.2 g) in dichloromethane (5 mL) is added dropwise. After stirring at −60° C. for 0.25 hours, triethylamine (0.33 mL) is added dropwise and the solution stirred for 0.25 hour at −60° C. and then at room temperature overnight. The solution is then poured into water (30 mL), extracted with ethyl acetate (3×50 mL) and the combined organic extracts washed with brine (30 mL), dried (magnesium sulfate), and concentrated to give a yellow-brown oil. The oil is subjected to mpic on silica gel, using petroleum ether:ethyl acetate (3:1 v/v)as eluent to give 2-(3,5-dichloropyrid-4-yl)-1-(3-cyclopentyloxy-6-fluoro-4-methoxyphenyl)ethanone (0.14 g). m.p. 115.5-116.5° C. [Elemental analysis: C, 57.7; H, 4.7; N, 3.5%; calculated: C, 57.3; H, 4.6; N, 3.5%].

reactant | oxalyl chloride | 0.05 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 1 mL | CS(=O)C | C2H6OS
reactant | 2-(3,5-dichloropyrid-4-yl)-1-(3-cyclopentyloxy-6-fluoro-4-methoxyphenyl)ethanol | 0.2 g | ClC=1C=NC=C(C1CC(O)C1=CC(=C(C=C1F)OC)OC1CCCC1)Cl | C19H20Cl2FNO3
reactant | triethylamine | 0.33 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | 30 mL | O | H2O
product | 2-(3,5-dichloropyrid-4-yl)-1-(3-cyclopentyloxy-6-fluoro-4-methoxyphenyl)ethanone | 0.14 g | ClC=1C=NC=C(C1CC(=O)C1=CC(=C(C=C1F)OC)OC1CCCC1)Cl | C19H18Cl2FNO3
